US07220760B2
N-(1-Benzoyl-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-prop-2-ynyl-acetamide
To a solution of (2-methyl-4-prop-2-ynylamino-3,4-dihydro-2H-quinolin-1-yl)-phenyl-methanone (0.06 g), diisopropyl ethyl amine (0.038 g) in dioxane (5 ml), anhydride acetic (0.2 g) was added under stirring. The mixture was heated under reflux over the night. After cooling dichloromethane and an aqueous solution of potassium carbonate were added. The organic layer was separated, and then dried over sodium sulfate. Organic solvent was removed under reduce pressure to give the crude compound (0.15 g). Purification by chromatography was performed with dichloromethane/methanol (99/1) as eluent to give the desired title compound (0.04 g, 58.8% yield).

reactant | (2-methyl-4-prop-2-ynylamino-3,4-dihydro-2H-quinolin-1-yl)-phenyl-methanone | 0.06 g | CC1N(C2=CC=CC=C2C(C1)NCC#C)C(=O)C1=CC=CC=C1 | C20H20N2O
reactant | diisopropyl ethyl amine | 0.038 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-(1-Benzoyl-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-prop-2-ynyl-acetamide | 0.04 g, 58.8% yield | C(C1=CC=CC=C1)(=O)N1C(CC(C2=CC=CC=C12)N(C(C)=O)CC#C)C | C22H22N2O2
